US06784172B2
4-Acetyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-1-carboxamide
To a solution of 4-acetylbenzodiazepine (20.0 g, 0.105 mole) in acetonitrile (100 ml) at room temperature was added sodium cyanate (27.4 g, 0.42 mole). The resulting suspension was heated to 50° C. and then trifluoroacetic acid (24.0 g, 0.21 mole) was added slowly dropwise over 30 min. Heating was continued at 50° C. for 1 h. The reaction mixture was cooled to room temperature and the solvent was evaporated to give a white residue. Water (160 ml) was added to the residue and the mixture was cooled in ice for 1 h. The solids were collected by filtration and washed with cold water. After drying under house vacuum 23.6 g (96% ) of product was obtained as a white solid.

reactant | 4-acetylbenzodiazepine | 0.105 mole, 20.0 g | C(C)(=O)C=1C=NNC2=C(C1)C=CC=C2 | C11H10N2O
reactant | sodium cyanate | 0.42 mole, 27.4 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 0.21 mole, 24.0 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 160 ml | O | H2O
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-Acetyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-1-carboxamide | C(C)(=O)N1CCN(C2=C(C1)C=CC=C2)C(=O)N | C12H15N3O2
